US08124783B2
Preparation of 4-[(5,6-dimethoxy-1-indanon-2-yl)methyl]pyridine (5)
4-[(5,6-Dimethoxy-1-indanon-2-ylidene)methyl]pyridine (50 g) in methanol and dichloromethane (1:1) was hydrogenated in presence of palladium on carbon (5 g) and a catalytic quantity of perchloric acid at 0.5 kg pressure and room temperature. The solvents were evaporated under vacuum and the residue was taken in ethyl acetate (500 ml), washed with water (50 ml), brine (50 ml), dried over anhydrous sodium sulphate and evaporated in vacuum to yield the product. Yield: 49 g.

reactant | 4-[(5,6-Dimethoxy-1-indanon-2-ylidene)methyl]pyridine | 50 g | COC=1C=C2CC(C(C2=CC1OC)=O)=CC1=CC=NC=C1 | C17H15NO3
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | 4-[(5,6-dimethoxy-1-indanon-2-yl)methyl]pyridine | COC=1C=C2CC(C(C2=CC1OC)=O)CC1=CC=NC=C1 | C17H17NO3
